US06031111
(RS)-1-(2,2-Diethoxyethyl)-3-((4-hydroxycarbonylphenyl)aminocarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one
(RS)-1-(2,2-diethoxyethyl)-3-((4-methoxycarbonylphenyl)aminocarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one in 30 ml of methanol was added 5 ml of an aqueous solution of 0.20 g of potassium hydroxide (85%) at room temperature. The mixture was stirred for 1 day, followed by concentration.

reactant | (RS)-1-(2,2-diethoxyethyl)-3-((4-methoxycarbonylphenyl)aminocarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one | C(C)OC(CN1C(C(C2=CC=CC=C12)(NC(=O)NC1=CC=C(C=C1)C)CC(=O)NC1=CC=C(C=C1)C(=O)OC)=O)OCC | C32H36N4O7
reactant | potassium hydroxide | 0.20 g | [OH-].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | (RS)-1-(2,2-Diethoxyethyl)-3-((4-hydroxycarbonylphenyl)aminocarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one | C(C)OC(CN1C(C(C2=CC=CC=C12)(NC(=O)NC1=CC=C(C=C1)C)CC(=O)NC1=CC=C(C=C1)C(=O)O)=O)OCC | C31H34N4O7
